US07750012B2
4-(4-Benzyloxy-phenyl)-piperazin-1-carboxylic acid tert-butyl ester:
A mixture of 4-(4-hydroxy-phenyl)-piperazin-1-carboxylic acid tert-butyl ester (278 mg, 1 mmol), bromomethyl-benzene (171 mg, 1 mmol) and K2CO3 (138 mg, 1 mmol) in DMF (3 mL) was stirred at rt for 24 h and then at 50° C. for 6 h, followed by addition of water (150 mL). The resulting solid was collected by filtration and washed with water to yield the desired compound (340 mg, 92%) as a white solid: MS (ESI) m/z 369 (M+H); 1H NMR (400 MHz, CDCl3) δ 1.48 (s, 9H), 3.01 (t, J=4.8 Hz, 4H), 3.57 (t, J=4.8 Hz, 4H), 5.02 (s, 2H), 6.87-6.93 (m, 4H), 7.33-7.44 (m, 5H).

reactant | 4-(4-hydroxy-phenyl)-piperazin-1-carboxylic acid tert-butyl ester | 1 mmol, 278 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C15H22N2O3
reactant | bromomethyl-benzene | 1 mmol, 171 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | K2CO3 | 1 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 150 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-Benzyloxy-phenyl)-piperazin-1-carboxylic acid tert-butyl ester | 340 mg, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H28N2O3
